US06326478B1
2-Acetoxyphenoxyethyl alcohol
2-(2-Hydroxyethoxy)phenol (308 g; 2 mol) was taken up in a 5 L Erlnmeyer flask fitted with mechanical stirrer. Anhydrous acetone (4 L, dried over K2CO3), and potassium carbonate powder (290 g; 2.1 mol) were added, and the mixture was stirred vigourously. Acetic anhydride (207 ml; 2.2 mol) was added from an additional funnel slowly over a period of 1 hour. Stiiring was continued for 3 hours. TLC (CH2Cl2/MeOH:9:1, v/v) showed disapperence of starting material. The reaction mixture was filtered, solid washed thoroughly with acetone (1 L). The combined fractions was concentrated and purified by chromatography eluting with hexane and ethyl acetate (0% to 35% EtOAc; v/v). The product was obtained as a colorless viscous oil. Yield 258-264 gms (70-72%)

reactant | 2-(2-Hydroxyethoxy)phenol | 2 mol, 308 g | OCCOC1=C(C=CC=C1)O | C8H10O3
reactant | acetone | 4 L | CC(=O)C | C3H6O
reactant | potassium carbonate | 2.1 mol, 290 g | C([O-])([O-])=O.[K+].[K+]
reactant | Acetic anhydride | 2.2 mol, 207 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 2-Acetoxyphenoxyethyl alcohol | C(C)(=O)OC1=C(OCCO)C=CC=C1 | C10H12O4
